### PR TITLE
[Merged by Bors] - feat: Some constructions about `RelSeries` (`reverse`, `snoc`, `cons`, `tail`, `smash`)

### PR DESCRIPTION
**Pull request by jjaassoonn**
- reverse a `RelSeries` to give another `RelSeries` of the opposite relation
- `cons`: put a smaller element in the front
- `snoc`: put a larger element in the end
- `tail`: chop off the first element
- `eraseLast`: chop off the last element
- `smash`: glue two relation series togather 

---

- [x] depends on: #3858

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
Can you add more details to the title to distinguish this from https://github.com/leanprover-community/mathlib4/pull/3858.

**Comment by semorrison** [comment]
See [zulip thread](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/StrictSeries.20!4.233858.2C.20!4.233852) for discussion about the design here.

File: Mathlib/Order/RelSeries.lean [hunk 1]
```diff
@@ -276,6 +319,150 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+
+-/
+@[simps]
+def combine (p q : RelSeries r) (connect : p.last = q.head) : RelSeries r where
+  length := p.length + q.length
+  toFun i :=
+    if H : i.1 < p.length
+    then p ⟨i.1, H.trans (lt_add_one _)⟩
+    else q ⟨i.1 - p.length,
+      Nat.sub_lt_left_of_lt_add (by rwa [not_lt] at H) (by rw [← add_assoc]; exact i.2)⟩
```
Comment (jjaassoonn) [inline Mathlib/Order/RelSeries.lean:390]: This could be implemented in terms of `eraseLast` and `append`, but I think this way makes it easier to prove later lemmas like `combine_castAdd` etc.

File: Mathlib/Order/RelSeries.lean [hunk 2]
```diff
@@ -211,18 +213,59 @@ def append (p q : RelSeries r) (connect : r p.last q.head) : RelSeries r where
         Nat.add_assoc _ 1, add_comm 1, Nat.sub_add_cancel]
       exact hi
 
+lemma append_apply_left (p q : RelSeries r) (connect : r p.last q.head)
+    (i : Fin (p.length + 1)) :
+    p.append q connect i = p i := by
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:218]: Can you use `addNat` rather than the poorly behaved coercion `Fin a → Fin b` which is the composition of `Fin a → ℕ` and `ℕ → Fin b`?

File: Mathlib/Order/RelSeries.lean [hunk 3]
```diff
@@ -276,6 +319,150 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+    · ext
+      simp only [Fin.val_rev, Fin.coe_castSucc, Nat.succ_sub_succ_eq_sub, Fin.val_succ]
+      rw [Nat.sub_eq_iff_eq_add, add_assoc, add_comm 1 i.1, Nat.sub_add_cancel] <;>
+      aesop
+
+@[simp] lemma reverse_apply (p : RelSeries r) (i : Fin (p.length + 1)) :
+    p.reverse i = p i.rev := rfl
+
+/--
+given a series `a₀ -r→ a₁ -r→ ... -r→ aₙ` and an `a` such that `a₀ -r→ a` holds, there is
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:345]:
```suggestion
Given a series `a₀ -r→ a₁ -r→ ... -r→ aₙ` and an `a` such that `a₀ -r→ a` holds, there is
```

File: Mathlib/Order/RelSeries.lean [hunk 4]
```diff
@@ -276,6 +319,150 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+@[simps]
+def eraseLast (p : RelSeries r) : RelSeries r where
+  length := p.length - 1
+  toFun i := p ⟨i, lt_of_lt_of_le i.2 (Nat.succ_le_succ tsub_le_self)⟩
+  step i := p.step ⟨i, lt_of_lt_of_le i.2 tsub_le_self⟩
+
+/--
+Given two series of the form `a₀ -r→ ... -r→ X` and `X -r→ b ---> ...`,
+then `a₀ -r→ ... -r→ X -r→ b ...` is another series obtained by combining the given two.
+
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:381]:
```suggestion
```

File: Mathlib/Order/RelSeries.lean [hunk 5]
```diff
@@ -276,6 +319,150 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+-/
+@[simps]
+def combine (p q : RelSeries r) (connect : p.last = q.head) : RelSeries r where
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:384]:
```suggestion
def smash (p q : RelSeries r) (connect : p.last = q.head) : RelSeries r where
```
sounds like a better name to me, as in "smash sum".

File: Mathlib/Order/RelSeries.lean [hunk 6]
```diff
@@ -212,18 +214,56 @@ def append (p q : RelSeries r) (connect : r p.last q.head) : RelSeries r where
...
+  simp only [Fin.coe_natAdd, Nat.cast_add, Function.comp_apply]
+  convert Fin.append_right _ _ _
+  ext
+  simp only [Fin.coe_cast, Fin.coe_natAdd]
+  conv_rhs => rw [add_assoc, add_comm 1, ← add_assoc]
+  change _ % _ = _
+  simp only [Nat.add_mod_mod, Nat.mod_add_mod, Nat.one_mod, Nat.mod_succ_eq_iff_lt]
+  linarith [i.2]
+
+@[simp] lemma append_head (p q : RelSeries r) (connect : r p.last q.head) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:237]:
```suggestion
@[simp] lemma head_append (p q : RelSeries r) (connect : r p.last q.head) :
```

File: Mathlib/Order/RelSeries.lean [hunk 7]
```diff
@@ -212,18 +214,56 @@ def append (p q : RelSeries r) (connect : r p.last q.head) : RelSeries r where
...
+    (p.append q connect).head = p.head :=
+  append_apply_left p q connect 0
+
+@[simp] lemma append_last (p q : RelSeries r) (connect : r p.last q.head) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:241]:
```suggestion
@[simp] lemma last_append (p q : RelSeries r) (connect : r p.last q.head) :
```

File: Mathlib/Order/RelSeries.lean [hunk 8]
```diff
@@ -212,18 +214,56 @@ def append (p q : RelSeries r) (connect : r p.last q.head) : RelSeries r where
...
 -/
-@[simps]
+@[simps length]
 def map (p : RelSeries r)
     (f : α → β) (hf : ∀ ⦃x y : α⦄, r x y → s (f x) (f y)) : RelSeries s where
   length := p.length
   toFun := f.comp p
   step := (hf <| p.step .)
 
+lemma map_apply (p : RelSeries r)
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:263]:
```suggestion
@[simp] lemma map_apply (p : RelSeries r)
```

File: Mathlib/Order/RelSeries.lean [hunk 9]
```diff
@@ -277,6 +317,149 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+
+/--
+Given a series `a₀ -r→ a₁ -r→ ... -r→ aₙ` and an `a` such that `a₀ -r→ a` holds, there is
+a series of length `n+1`: `a -r→ a₀ -r→ a₁ -r→ ... -r→ aₙ`.
+-/
+@[simps! length]
+def cons (p : RelSeries r) (newHead : α) (rel : r newHead p.head) : RelSeries r :=
+  (singleton r newHead).append p rel
+
+@[simp] lemma cons_head (p : RelSeries r) (newHead : α) (rel : r newHead p.head) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:350]:
```suggestion
@[simp] lemma head_cons (p : RelSeries r) (newHead : α) (rel : r newHead p.head) :
```

File: Mathlib/Order/RelSeries.lean [hunk 10]
```diff
@@ -277,6 +317,149 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+    (p.cons newHead rel).head = newHead := rfl
+
+@[simp] lemma cons_last (p : RelSeries r) (newHead : α) (rel : r newHead p.head) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:353]:
```suggestion
@[simp] lemma last_cons (p : RelSeries r) (newHead : α) (rel : r newHead p.head) :
```

File: Mathlib/Order/RelSeries.lean [hunk 11]
```diff
@@ -277,6 +317,149 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+
+lemma smash_natAdd {p q : RelSeries r} (h : p.last = q.head) (i : Fin q.length) :
+    smash p q h (Fin.castSucc <| i.natAdd p.length) = q (Fin.castSucc i) := by
+  rw [smash_toFun]
+  split_ifs with H
+  · simp only [Fin.coe_castSucc, Fin.coe_natAdd, add_lt_iff_neg_left, not_lt_zero'] at H
+  · congr
+    exact Nat.add_sub_self_left _ _
+
+lemma combine_succ_natAdd {p q : RelSeries r} (h : p.last = q.head) (i : Fin q.length) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:441]:
```suggestion
lemma smash_succ_natAdd {p q : RelSeries r} (h : p.last = q.head) (i : Fin q.length) :
```

File: Mathlib/Order/RelSeries.lean [hunk 12]
```diff
@@ -277,6 +317,149 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+  rw [smash_toFun]
+  split_ifs with H
+  · have H' : p.length < p.length + (i.1 + 1)
+    · linarith
+    exact (lt_irrefl _ (H.trans H')).elim
+  · congr
+    simp only [Fin.val_succ, Fin.coe_natAdd]
+    rw [add_assoc, Nat.add_sub_cancel_left]
+
+@[simp] lemma smash_head {p q : RelSeries r} (h : p.last = q.head) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:452]:
```suggestion
@[simp] lemma head_smash {p q : RelSeries r} (h : p.last = q.head) :
```

File: Mathlib/Order/RelSeries.lean [hunk 13]
```diff
@@ -277,6 +317,149 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+    (smash p q h).head = p.head := by
+  delta head smash
+  simp only [Fin.val_zero, Fin.zero_eta, ge_iff_le, zero_le, tsub_eq_zero_of_le, dite_eq_ite,
+    ite_eq_left_iff, not_lt, nonpos_iff_eq_zero]
+  intro H; convert h.symm; congr; aesop
+
+@[simp] lemma smash_last {p q : RelSeries r} (h : p.last = q.head) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:459]:
```suggestion
@[simp] lemma last_smash {p q : RelSeries r} (h : p.last = q.head) :
```

File: Mathlib/Order/RelSeries.lean [hunk 14]
```diff
@@ -277,6 +317,149 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+  step i := p.step ⟨i.1 + 1, Nat.lt_pred_iff.mp i.2⟩
+
+/--
+If a series ``a₀ -r→ a₁ -r→ ... -r→ aₙ``, then `a₀ -r→ a₁ -r→ ... -r→ aₙ₋₁` is
+another series -/
+@[simps]
+def eraseLast (p : RelSeries r) : RelSeries r where
+  length := p.length - 1
+  toFun i := p ⟨i, lt_of_lt_of_le i.2 (Nat.succ_le_succ tsub_le_self)⟩
+  step i := p.step ⟨i, lt_of_lt_of_le i.2 tsub_le_self⟩
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:374]: Can you prove *anything* about these two or alternatively postpone them to a later PR?

Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean]: I add lemmas stating what their `head` and `last` are

File: Mathlib/Order/RelSeries.lean [hunk 15]
```diff
@@ -277,6 +317,173 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+
+lemma head_eraseLast (p : RelSeries r) : p.eraseLast.head = p.head := rfl
+
+lemma last_eraseLast (p : RelSeries r) :
+    p.eraseLast.last = p ⟨p.length.pred, lt_of_le_of_lt (Nat.pred_le _) Nat.le.refl⟩ := rfl
+
+
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:399]:
```suggestion

```

File: Mathlib/Order/RelSeries.lean [hunk 16]
```diff
@@ -277,6 +317,173 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+@[simps]
+def eraseLast (p : RelSeries r) : RelSeries r where
+  length := p.length - 1
+  toFun i := p ⟨i, lt_of_lt_of_le i.2 (Nat.succ_le_succ tsub_le_self)⟩
+  step i := p.step ⟨i, lt_of_lt_of_le i.2 tsub_le_self⟩
+
+lemma head_eraseLast (p : RelSeries r) : p.eraseLast.head = p.head := rfl
+
+lemma last_eraseLast (p : RelSeries r) :
+    p.eraseLast.last = p ⟨p.length.pred, lt_of_le_of_lt (Nat.pred_le _) Nat.le.refl⟩ := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:397]:
```suggestion
    p.eraseLast.last = p ⟨p.length.pred, Nat.lt_succ_iff.2 (Nat.pred_le _)⟩ := rfl
```

File: Mathlib/Order/RelSeries.lean [hunk 17]
```diff
@@ -277,6 +317,173 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+another series -/
+@[simps]
+def eraseLast (p : RelSeries r) : RelSeries r where
+  length := p.length - 1
+  toFun i := p ⟨i, lt_of_lt_of_le i.2 (Nat.succ_le_succ tsub_le_self)⟩
+  step i := p.step ⟨i, lt_of_lt_of_le i.2 tsub_le_self⟩
+
+lemma head_eraseLast (p : RelSeries r) : p.eraseLast.head = p.head := rfl
+
+lemma last_eraseLast (p : RelSeries r) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:396]:
```suggestion
@[simp] lemma last_eraseLast (p : RelSeries r) :
```

File: Mathlib/Order/RelSeries.lean [hunk 18]
```diff
@@ -277,6 +317,173 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+/--
+If a series ``a₀ -r→ a₁ -r→ ... -r→ aₙ``, then `a₀ -r→ a₁ -r→ ... -r→ aₙ₋₁` is
+another series -/
+@[simps]
+def eraseLast (p : RelSeries r) : RelSeries r where
+  length := p.length - 1
+  toFun i := p ⟨i, lt_of_lt_of_le i.2 (Nat.succ_le_succ tsub_le_self)⟩
+  step i := p.step ⟨i, lt_of_lt_of_le i.2 tsub_le_self⟩
+
+lemma head_eraseLast (p : RelSeries r) : p.eraseLast.head = p.head := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:394]:
```suggestion
@[simp] lemma head_eraseLast (p : RelSeries r) : p.eraseLast.head = p.head := rfl
```

File: Mathlib/Order/RelSeries.lean [hunk 19]
```diff
@@ -277,6 +317,173 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+/--
+If a series `a₀ -r→ a₁ -r→ ...` has positive length, then `a₁ -r→ ...` is another series
+-/
+@[simps]
+def tail (p : RelSeries r) (len_pos : p.length ≠ 0) : RelSeries r where
+  length := p.length - 1
+  toFun := Fin.tail p ∘ (Fin.cast <| Nat.succ_pred_eq_of_pos <| Nat.pos_of_ne_zero len_pos)
+  step i := p.step ⟨i.1 + 1, Nat.lt_pred_iff.mp i.2⟩
+
+lemma head_tail (p : RelSeries r) (len_pos : p.length ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:367]:
```suggestion
@[simp] lemma head_tail (p : RelSeries r) (len_pos : p.length ≠ 0) :
```

File: Mathlib/Order/RelSeries.lean [hunk 20]
```diff
@@ -277,6 +317,173 @@ def insertNth (p : RelSeries r) (i : Fin p.length) (a : α)
...
+    (p.tail len_pos).head = p 1 := by
+  show p (Fin.succ _) = p 1
+  congr
+  ext
+  show (1 : ℕ) = (1 : ℕ) % _
+  rw [Nat.mod_eq_of_lt]
+  simpa only [lt_add_iff_pos_left, Nat.pos_iff_ne_zero]
+
+lemma last_tail (p : RelSeries r) (len_pos : p.length ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:376]:
```suggestion
@[simp] lemma last_tail (p : RelSeries r) (len_pos : p.length ≠ 0) :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by fpvandoorn** [comment]
bors r-
bors d+
There seem to be some errors from this PR
